US05021436
A solution of 2-chloromethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (1 g) and tetrabutylammonium hydrogen sulfide (0.7 g) in methylene chloride (10 ml) is stirred at -10° C., for 20 minutes, neutralized with a drop of AcOH, evaporated under vacuum and the residue recrystallized from Et2O to give 0.7 g of 2-mercaptomethyl-3,5-dicarboetoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine, m.p. 145°-147° C.

reactant | 2-chloromethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 1 g | ClCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H21ClN2O6
reactant | tetrabutylammonium hydrogen sulfide | 0.7 g | S.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | AcOH | CC(=O)O | C2H4O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-mercaptomethyl-3,5-dicarboetoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 0.7 g | SCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6S
